US08957064B2
Step 1: 1-[4-(dimethoxymethyl)phenyl]-2-phenylethanol
A mixture of Mg turnings 2.4 g (0.1 mol) and 2 mL 1-bromo-4-(dimethoxymethyl)benzene (0.012 mol) in THF (100 mL) was heated under nitrogen atmosphere until the reaction starts. Subsequently additional 1-bromo-4-(dimethoxymethyl)benzene 14.71 mL (0.088 mol) dissolved in 30 mL THF was added slowly and the reaction refluxed for 1 h mixture to complete formation of the Gringnard reagent. A solution of 11.70 mL phenylacetaldehyde (0.1 mol) in 100 mL THF was added at to 0° C. and the reaction refluxed for 2 h upon completion of the addition. The mixture was worked up by pouring into saturated aqueous NH4Cl and extraction with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4 and the solvents were evaporated under reduced pressure. The brown-black oily product was used for the next step without purification.

reactant | 1-bromo-4-(dimethoxymethyl)benzene | 0.012 mol, 2 mL | BrC1=CC=C(C=C1)C(OC)OC | C9H11BrO2
reactant | 1-bromo-4-(dimethoxymethyl)benzene | 0.088 mol, 14.71 mL | BrC1=CC=C(C=C1)C(OC)OC | C9H11BrO2
reactant | phenylacetaldehyde | 0.1 mol, 11.70 mL | C1(=CC=CC=C1)CC=O | C8H8O
reactant | NH4Cl | [NH4+].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-[4-(dimethoxymethyl)phenyl]-2-phenylethanol | COC(C1=CC=C(C=C1)C(CC1=CC=CC=C1)O)OC | C17H20O3
